US04569996
Isocytosine is reacted with 2-methyl-5-formyl pyridine in refluxing concentrated hydrochloric acid for 24 hours to give 2-amino-5-((6-methyl-3-pyridyl)hydroxymethyl)-4(1H)-pyrimidinone.

reactant | Isocytosine | C1=CN=C(NC1=O)N | C4H5N3O
reactant | 2-methyl-5-formyl pyridine | CC1=NC=C(C=C1)C=O | C7H7NO
reactant | hydrochloric acid | Cl | ClH
product | 2-amino-5-((6-methyl-3-pyridyl)hydroxymethyl)-4(1H)-pyrimidinone | NC=1NC=C(C(N1)=O)C(O)C=1C=NC(=CC1)C | C11H12N4O2
